US04327091
5,0 g of 3,4-dihydro-4-oxo-N-(4-oxo-4H-1-benzopyran-3-yl)-2H-1,2-benzothiazine-3-carboxamide 1,1-dioxide and 0,68 g of a sodium hydride suspension (50% in petroleum) are dissolved, with rigorous stirring, in 100 ml of dimethylformamide of 4°. 2,5 g of ethyl iodide are added and allowed to react for 2 hours. The reaction mixture is concentrated to one-third of its original volume, and ethanol is slowly added until crystals begin to precipitate. After some standing at room temperature, the crystals are filtered off, washed with ice-cold ethanol and recrystallised from ethanol/chloroform. After filtration and drying, 2-ethyl-3,4-dihydro-4-oxo-N-(4-oxo-4H-1-benzopyran-3-yl)-2H-1,2-benzothiazine-3-carboxamide 1,1-dioxide, of m.p. 235°-237°, is obtained.

reactant | 3,4-dihydro-4-oxo-N-(4-oxo-4H-1-benzopyran-3-yl)-2H-1,2-benzothiazine-3-carboxamide 1,1-dioxide | 5,0 g | O=C1C(NS(C2=C1C=CC=C2)(=O)=O)C(=O)NC2=COC1=C(C2=O)C=CC=C1 | C18H12N2O6S
reactant | sodium hydride | 0,68 g | [H-].[Na+]
reactant | ethyl iodide | 2,5 g | C(C)I | C2H5I
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2-ethyl-3,4-dihydro-4-oxo-N-(4-oxo-4H-1-benzopyran-3-yl)-2H-1,2-benzothiazine-3-carboxamide 1,1-dioxide | C(C)N1S(C2=C(C(C1C(=O)NC1=COC3=C(C1=O)C=CC=C3)=O)C=CC=C2)(=O)=O | C20H16N2O6S
